US07511162B2
Finally, in a dry 2-necked, round bottomed flask, fixed with a separatory funnel, containing 15.31 g (70 mmol) of the prepared dodecanoyl chloride, and side arm water condenser fixed with a dry receiving flask, is placed 16.06 g (84 mmol) of ammonium 2-amino-5-guanidinopentanoate. The round bottomed flask is placed in an ice bath and the dodecanoyl chloride is added drop wise. After addition is completed the mixture is shaken and the ice bath is replaced by a heating mantle. The flask is then heated until no more solution is dropping into the receiving flask. This crude distillate is then further fractionally distilled to yield 2-amino-5-guanidinopentanoic dodecanoic anhydride.

reactant | dodecanoyl chloride | 70 mmol, 15.31 g | C(CCCCCCCCCCC)(=O)Cl | C12H23ClO
reactant | ammonium 2-amino-5-guanidinopentanoate | 84 mmol, 16.06 g | NC(C(=O)[O-])CCCNC(=N)N.[NH4+]
product | 2-amino-5-guanidinopentanoic dodecanoic anhydride | C(CCCCCCCCCCC)(=O)OC(C(CCCNC(=N)N)N)=O | C18H36N4O3
